US06395919B1
(b) Preparation of (R)-2-cyano-4-(3-carbethoxypropyl)phenyl Glycidyl Ether
Using the method of example 30(b), supra, ethyl 4-(3-cyano-4-hydroxyphenyl)butanoate (0.93 g, 4 mmol) and (R)-glycidyl nosylate (1.00 g, 3.86 mmol) were used to prepare 0.74 g (66%) of the title compound as a white solid.

reactant | ethyl 4-(3-cyano-4-hydroxyphenyl)butanoate | 4 mmol, 0.93 g | C(#N)C=1C=C(C=CC1O)CCCC(=O)OCC | C13H15NO3
reactant | (R)-glycidyl nosylate | 3.86 mmol, 1.00 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (R)-2-cyano-4-(3-carbethoxypropyl)phenyl Glycidyl Ether | 0.74 g, 66% | C([C@H]1CO1)OC1=C(C=C(C=C1)CCCC(=O)OCC)C#N | C16H19NO4
